US06166006
To a solution of 2-bromo-3-methoxypyridine (1.00 g) in diethylether (20 ml) was added a solution of n-butyllithium in hexane (1.6M, 3.7 ml) at -78° C., and the mixture was stirred for 1 hour to prepare the lithium salt, which was dropwise added to a solution of 4-nitrobenzaldehyde (0.81 g) in tetrahydrofuran (10 ml) cooled at -78° C. The mixture was stirred at -78° C. To the reaction mixture was added water to stop the reaction, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride solution, dried with magnesium sulfate and concentrated. Under reduced pressure, the residue was separated and purified with column chromatography (ethyl acetate/hexane=1:3→1:1) to give 3-methoxypyridin-2-yl)-(4-nitrophenyl)methanol (742 mg) as pale yellow crystals.

reactant | 2-bromo-3-methoxypyridine | 1.00 g | BrC1=NC=CC=C1OC | C6H6BrNO
reactant | n-butyllithium | C(CCC)[Li]
reactant | lithium | [Li] | Li
reactant | 4-nitrobenzaldehyde | 0.81 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
solvent | diethylether | 20 ml | C(C)OCC | C4H10O
solvent | hexane | 1.6M, 3.7 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | (4-nitrophenyl)methanol | 742 mg | [N+](=O)([O-])C1=CC=C(C=C1)CO | C7H7NO3
